US07507736B2
[1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone
The title compound was prepared in analogy to example 51, from [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and methanesulfonyl chloride. Light-yellow foam. MS (m/z): 513.4 (M+H)+.

reactant | [1-(2,2-difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1)F
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | [1-(2,2-Difluoro-ethyl)-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | FC(CN1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCN(CC1)S(=O)(=O)C)F | C24H34F2N4O4S
